US06340704B1
N-Methyl-8-(1-piperidinyl)-1,3-dioxolo[4,5-g]quinoline-6-carboxamide
After a mixture of ethyl 8-(1-piperidinyl)-1,3-dioxolo[4,5-g]quinoline-6-carboxylate as obtained in Reference Example 31 (60 mg) and a 40% methylamine-methanol solution (5 ml) was stirred at room temperature for 3 hours, the solvent was distilled off under reduced pressure to yield the title compound as a colorless powder (33.6 mg).

reactant | ethyl 8-(1-piperidinyl)-1,3-dioxolo[4,5-g]quinoline-6-carboxylate | N1(CCCCC1)C1=CC(=NC=2C=C3C(=CC12)OCO3)C(=O)OCC | C18H20N2O4
reactant | methylamine methanol | 5 ml | CN.CO
product | N-Methyl-8-(1-piperidinyl)-1,3-dioxolo[4,5-g]quinoline-6-carboxamide | 33.6 mg | CNC(=O)C1=NC=2C=C3C(=CC2C(=C1)N1CCCCC1)OCO3 | C17H19N3O3
